### PR TITLE
[Merged by Bors] - feat(RingTheory/Dimension): Upper bound of dimension of polynomial ring

### PR DESCRIPTION
**Pull request by xyzw12345**
In this PR, we proved the following `proof_wanted` in `Mathlib.RingTheory.KrullDimension.Basic`: For a commutative ring $R$, $dim R[X] \le 2 * dim R + 1$.
```
proof_wanted Polynomial.ringKrullDim_le :
    ringKrullDim (Polynomial R) ≤ 2 * (ringKrullDim R) + 1
```

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/KrullDimension/Basic.lean [hunk 1]
```diff
@@ -33,6 +33,9 @@ abbrev Ring.KrullDimLE (n : ℕ) (R : Type*) [CommSemiring R] : Prop :=
 
 variable {R S : Type*} [CommSemiring R] [CommSemiring S]
 
+lemma Ring.KrullDimLE_iff_ringKrullDim_le (n : ℕ) (R : Type*) [CommSemiring R] :
```
Comment (erdOne) [inline Mathlib/RingTheory/KrullDimension/Basic.lean:36]:
```suggestion
lemma Ring.KrullDimLE_iff {n : ℕ} {R : Type*} [CommSemiring R] :
```
We like to keep arguments implicit for iff lemmas.

File: Mathlib/RingTheory/KrullDimension/Polynomial.lean [hunk 2]
```diff
@@ -0,0 +1,187 @@
...
+
+instance IsPrincipalIdealRing.KrullDimLE_one (R : Type*) [CommRing R] [IsDomain R]
+    [IsPrincipalIdealRing R] : Ring.KrullDimLE 1 R := by
+  rw [Ring.krullDimLE_one_iff]
+  apply fun I hI ↦ Classical.or_iff_not_imp_left.mpr fun hI' ↦
+    IsPrime.to_maximal_ideal (hpi := hI) ?_
+  simp_all [IsDomain.minimalPrimes_eq_singleton_bot]
+
+theorem Polynomial.ringKrullDim_le {R : Type*} [CommRing R] :
+    ringKrullDim (Polynomial R) ≤ 2 * (ringKrullDim R) + 1 := by
```
[the remark this answers is not in the document]
Comment (xyzw12345) [reply Mathlib/RingTheory/KrullDimension/Polynomial.lean:110]: Thanks for the slides! It's really helpful to know `#trans_imports`.

File: Mathlib/RingTheory/KrullDimension/Polynomial.lean [hunk 3]
```diff
@@ -0,0 +1,187 @@
...
+
+## Main results
+
+* `Polynomial.ringKrullDim_le`: the krull dimension of the polynomial ring over a commutative ring
+  `R` is less than `2 * (ringKrullDim R) + 1`.
+-/
+
+lemma Order.krullDim_le_of_krullDim_preimage_le {α β : Type*} [Preorder α] [PartialOrder β]
+    (f : α →o β) {m : ℕ} (h : ∀ (x : β), Order.krullDim (f ⁻¹' {x}) ≤ m) :
+    Order.krullDim α ≤ (m + 1) * Order.krullDim β + m := by
```
[the remark this answers is not in the document]
Comment (xyzw12345) [reply Mathlib/RingTheory/KrullDimension/Polynomial.lean]: Well, it appears to me that it's almost inevitable here to manipulate the underlying LTSeries here, so I'm a bit confused on why induction on `Order.height` can make things simpler.

File: Mathlib/Data/ENat/Basic.lean [hunk 4]
```diff
@@ -574,3 +580,13 @@ lemma WithBot.add_one_le_iff {n : ℕ} {m : WithBot ℕ∞} : n + 1 ≤ m ↔ n
   · simp
   · rw [WithBot.coe_le_coe, ENat.coe_add, ENat.coe_one, ENat.add_one_le_iff (ENat.coe_ne_top n),
       ← WithBot.coe_lt_coe, WithBot.coe_natCast]
+
+lemma WithBot.mul_left_mono {n : WithBot ℕ∞} (h : n ≠ ⊥) : Monotone (· * n) := fun x y h' ↦ by
```
Comment (erdOne) [inline Mathlib/Data/ENat/Basic.lean]: Is this not true for bot? Are you sure we don't have this (I cannot check now)?

File: Mathlib/RingTheory/KrullDimension/Basic.lean [hunk 5]
```diff
@@ -33,6 +33,9 @@ abbrev Ring.KrullDimLE (n : ℕ) (R : Type*) [CommSemiring R] : Prop :=
 
 variable {R S : Type*} [CommSemiring R] [CommSemiring S]
 
+lemma Ring.KrullDimLE_iff_ringKrullDim_le {n : ℕ} :
```
Comment (erdOne) [inline Mathlib/RingTheory/KrullDimension/Basic.lean]: This could just be called `Ring.krullDimLE_iff`

File: Mathlib/RingTheory/KrullDimension/PID.lean [hunk 6]
```diff
@@ -0,0 +1,30 @@
...
+  simp_all [IsDomain.minimalPrimes_eq_singleton_bot]
+
+theorem IsPrincipalIdealRing.ringKrullDim_eq_one (R : Type*) [CommRing R] [IsDomain R]
+    [IsPrincipalIdealRing R] (h : ¬ IsField R) : ringKrullDim R = 1 := by
+  apply eq_of_le_of_not_lt ?_ fun h' ↦ h ?_
+  · rw [← Nat.cast_one, ← Ring.KrullDimLE_iff_ringKrullDim_le]
+    infer_instance
+  · suffices h'' : ringKrullDim R ≤ 0 by
+      rw [← Nat.cast_zero, ← Ring.KrullDimLE_iff_ringKrullDim_le] at h''
+      exact Ring.KrullDimLE.isField_of_isDomain
```
Comment (erdOne) [inline Mathlib/RingTheory/KrullDimension/PID.lean]: This part should be its own lemma (for domains, isField iff dim = 0)

File: Mathlib/Order/KrullDimension.lean [hunk 7]
```diff
@@ -1036,4 +1034,70 @@ lemma coheight_coe_enat (n : ℕ) : coheight (n : ℕ∞) = ⊤ := by
 
 end calculations
 
+section orderHom
+
+lemma krullDim_le_of_krullDim_preimage_le {α β : Type*} [Preorder α] [PartialOrder β]
+    (f : α →o β) {m : ℕ} (h : ∀ (x : β), Order.krullDim (f ⁻¹' {x}) ≤ m) :
+    Order.krullDim α ≤ (m + 1) * Order.krullDim β + m := by
```
Comment (alreadydone) [inline Mathlib/Order/KrullDimension.lean]: Can you do the proof of `height a ≤ (m + 1) * height (f a) + m` like this: take an arbitrary LTSeries as in the [definition of `height a`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/KrullDimension.html#Order.height); if its length is `≤ m` there's nothing to prove. If its length is `> m`, we can take the `m+2`nd-to-last term `a'`, and we have `f a' < f a` because the fiber over `f a` doesn't admit a LTSeries of length `> m`. Now `f a'` has lower height than `f a` (assuming `f a` has finite height, otherwise there's nothing to prove), so by induction `height a' ≤ (m + 1) * height (f a') + m`. The total length of the LTSeries is at most `height a' + m + 1 ≤ (m + 1) * (height (f a') + 1) + m ≤ (m + 1) * height (f a) + m`, and since this holds for all LTSeries we conclude the bound on `height a`.

Maybe it's easier to work with [Order.coheight_le_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/KrullDimension.html#Order.coheight_le_iff) to avoid subtraction ...

File: Mathlib/Data/ENat/Basic.lean (hunk 4 above)
Comment (xyzw12345) [reply Mathlib/Data/ENat/Basic.lean]: I think bot * 0 = 0 but bot * 1 = bot, so this doesn't hold for bot?

Comment (erdOne) [reply Mathlib/Data/ENat/Basic.lean]: Ah is the multiplication defined like this.

Comment (xyzw12345) [reply Mathlib/Data/ENat/Basic.lean]: I tried loogling with `WithBot, "mono"`, "WithBot ENat, _ * _", "WithBot, _ * _, _ <= _", and didn't see anything similar. So it's either stated in a very weird way, or it's just not in mathlib at this moment?

File: Mathlib/Order/KrullDimension.lean (hunk 7 above)
Comment (xyzw12345) [reply Mathlib/Order/KrullDimension.lean]: I'll give it a try when I'm available! At least this seems to avoid the burden of deduplication. But sadly I need to work on my final exams in the following work or two.

File: Mathlib/Data/ENat/Basic.lean (hunk 4 above)
Comment (erdOne) [reply Mathlib/Data/ENat/Basic.lean]: This is just `MulPosMono (WithBot ENat)` right? (which follows from `inferInstance`)

Comment (xyzw12345) [reply Mathlib/Data/ENat/Basic.lean]: Thanks! I didn't notice the `MulPosMono` typeclass before. The new lemmas are now deleted, and the applications are changed to use this instead.

File: Mathlib/RingTheory/KrullDimension/PID.lean (hunk 6 above)
Comment (xyzw12345) [reply Mathlib/RingTheory/KrullDimension/PID.lean]: But the theorem applied here, `Ring.KrullDimLE.isField_of_isDomain`, is exactly about for a domain `R`, if it satisfies `Ring.KrullDimLE 0 R` then we have `IsField R`. So wouldn't adding this be some sort of duplicating lemmas?

File: Mathlib/RingTheory/KrullDimension/PID.lean [hunk 8]
```diff
@@ -0,0 +1,29 @@
...
+import Mathlib.RingTheory.KrullDimension.Zero
+import Mathlib.RingTheory.PrincipalIdealDomain
+
+/-!
+# The Krull dimension of a principal ideal domain
+
+In this file, we proved some results about the dimension of a principal ideal domain.
+-/
+
+instance IsPrincipalIdealRing.KrullDimLE_one (R : Type*) [CommRing R] [IsDomain R]
```
Comment (erdOne) [inline Mathlib/RingTheory/KrullDimension/PID.lean]:
```suggestion
instance IsPrincipalIdealRing.krullDimLE_one (R : Type*) [CommRing R] [IsDomain R]
```

File: Mathlib/RingTheory/LocalRing/ResidueField/Fiber.lean [hunk 9]
```diff
@@ -0,0 +1,92 @@
...
+-/
+
+open Algebra TensorProduct in
+/-- The `OrderIso` between fiber of a ring homomorphism `algebraMap R S : R →+* S` at a prime ideal
+ `p : PrimeSpectrum R` and the prime spectrum of the tensor product of `S` and the residue field of
+ `p`. -/
+noncomputable def PrimeSpectrum.preimageOrderIsoTensorResidueField (R S : Type*) [CommRing R]
+    [CommRing S] [Algebra R S] (p : PrimeSpectrum R) :
+    (algebraMap R S).specComap ⁻¹' {p} ≃o
+      PrimeSpectrum (p.asIdeal.ResidueField ⊗[R] S) := OrderIso.symm <| by
```
Comment (alreadydone) [inline Mathlib/RingTheory/LocalRing/ResidueField/Fiber.lean]: I golfed this in [this commit](https://github.com/leanprover-community/mathlib4/commit/99e7772e811191e62e247c1f95ab9b8dd876d9af).

File: Mathlib/Order/KrullDimension.lean (hunk 7 above)
Comment (xyzw12345) [reply Mathlib/Order/KrullDimension.lean]: The new proof is finished now! It's indeed a better idea, thanks!

File: Mathlib/RingTheory/LocalRing/ResidueField/Fiber.lean (hunk 9 above)
Comment (xyzw12345) [reply Mathlib/RingTheory/LocalRing/ResidueField/Fiber.lean]: Merged now. Things seems more organized now, thanks!

File: Mathlib/Data/ENat/Basic.lean [hunk 10]
```diff
@@ -559,6 +559,12 @@ protected def _root_.RingHom.ENatMap {S : Type*} [CommSemiring S] [PartialOrder
     [DecidableEq S] [Nontrivial S] (f : ℕ →+* S) (hf : Function.Injective f) : ℕ∞ →+* WithTop S :=
   {MonoidWithZeroHom.ENatMap f.toMonoidWithZeroHom hf, f.toAddMonoidHom.ENatMap with}
 
+instance : NoZeroDivisors ℕ∞ where
+  eq_zero_or_eq_zero_of_mul_eq_zero {a b} h := by
+    by_contra h'
+    cases a <;> cases b <;> simp_all
+    · norm_cast at h; simp_all
```
Comment (erdOne) [inline Mathlib/Data/ENat/Basic.lean]: Is this just [`WithTop.instNoZeroDivisors`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/Ring/WithTop.html#WithTop.instNoZeroDivisors)?
Does `instance : NoZeroDivisors ℕ∞ := inferInstanceAs (NoZeroDivisors (WithTop ℕ))` work?

File: Mathlib/Data/Set/Image.lean [hunk 11]
```diff
@@ -463,6 +463,10 @@ theorem image_inter_nonempty_iff {f : α → β} {s : Set α} {t : Set β} :
     (f '' s ∩ t).Nonempty ↔ (s ∩ f ⁻¹' t).Nonempty := by
   rw [← image_inter_preimage, image_nonempty]
 
+theorem disjoint_image_left {f : α → β} {s : Set α} {t : Set β} :
+    Disjoint (f '' s) t ↔ Disjoint s (f ⁻¹' t) := by
+  simp_rw [disjoint_iff_inter_eq_empty, ← not_nonempty_iff_eq_empty, image_inter_nonempty_iff]
```
Comment (erdOne) [inline Mathlib/Data/Set/Image.lean:468]: We might want a `disjoint_image_right` as well.

File: Mathlib/RingTheory/KrullDimension/Basic.lean [hunk 12]
```diff
@@ -33,6 +33,9 @@ abbrev Ring.KrullDimLE (n : ℕ) (R : Type*) [CommSemiring R] : Prop :=
 
 variable {R S : Type*} [CommSemiring R] [CommSemiring S]
 
+lemma Ring.KrullDimLE_iff {n : ℕ} :
```
Comment (erdOne) [inline Mathlib/RingTheory/KrullDimension/Basic.lean]:
```suggestion
lemma Ring.krullDimLE_iff {n : ℕ} :
```

File: Mathlib/Order/KrullDimension.lean [hunk 13]
```diff
@@ -1036,4 +1033,53 @@ lemma coheight_coe_enat (n : ℕ) : coheight (n : ℕ∞) = ⊤ := by
 
 end calculations
 
+section orderHom
+
+lemma height_le_of_krullDim_preimage_le {α β : Type*} [Preorder α] [PartialOrder β]
+    (f : α →o β) {m : ℕ} (h : ∀ (x : β), Order.krullDim (f ⁻¹' {x}) ≤ m) (x : α):
+    Order.height x ≤ (m + 1) * Order.height (f x) + m := by
```
Comment (alreadydone) [inline Mathlib/Order/KrullDimension.lean:1043]: Thanks! Can you add the `coheight` version (by making use of OrderDual somehow)? I suspect it might be easier to prove the `coheight` version first because there's no need of the subtraction in `p.length - (m + 1)`.

File: Mathlib/RingTheory/Localization/AtPrime.lean [hunk 14]
```diff
@@ -179,6 +186,13 @@ theorem AtPrime.map_eq_maximalIdeal :
   -- Porting note: can not find `hI`
   rw [map_comap I.primeCompl]
 
+lemma AtPrime.eq_maximalIdeal_iff_comap_eq {J : Ideal (Localization.AtPrime I)} :
+    Ideal.comap (algebraMap R (Localization.AtPrime I)) J = I ↔
+    J = IsLocalRing.maximalIdeal (Localization.AtPrime I) := ⟨fun h ↦ by
+  refine le_antisymm (IsLocalRing.le_maximalIdeal (fun hJ ↦ (hI.ne_top (h.symm ▸ hJ ▸ rfl)))) ?_
+  simpa [← AtPrime.map_eq_maximalIdeal, ← h] using Ideal.map_comap_le,
+  fun h ↦ h.symm ▸ AtPrime.comap_maximalIdeal⟩
```
Comment (alreadydone) [inline Mathlib/RingTheory/Localization/AtPrime.lean]:
```suggestion
    J = IsLocalRing.maximalIdeal (Localization.AtPrime I) where
  mp h :=le_antisymm (IsLocalRing.le_maximalIdeal (fun hJ ↦ (hI.ne_top (h.symm ▸ hJ ▸ rfl)))) <| by
    simpa [← AtPrime.map_eq_maximalIdeal, ← h] using Ideal.map_comap_le
  mpr h := h.symm ▸ AtPrime.comap_maximalIdeal
```
(untested)

File: Mathlib/Data/Set/Image.lean (hunk 11 above)
Comment (alreadydone) [reply Mathlib/Data/Set/Image.lean:468]: I agree, then it can be used to golf `Ideal.disjoint_map_primeCompl_iff_comap_le` by defeq. (I no longer need to use this `left` version after I found this `Ideal` lemma.)

File: Mathlib/RingTheory/KrullDimension/NonZeroDivisors.lean [hunk 15]
```diff
@@ -18,24 +18,23 @@ import Mathlib.RingTheory.Spectrum.Prime.Topology
...
-lemma ringKrullDim_quotient (I : Ideal R) :
-    ringKrullDim (R ⧸ I) = Order.krullDim (PrimeSpectrum.zeroLocus (R := R) I) := by
-  let e : PrimeSpectrum (R ⧸ I) ≃ (PrimeSpectrum.zeroLocus (R := R) I) :=
-    (Equiv.ofInjective _ (PrimeSpectrum.comap_injective_of_surjective _
-      Ideal.Quotient.mk_surjective)).trans (Equiv.setCongr
+/-- The prime spectrum of a quotient of a ring by an ideal is in order-preserving bijection
+with the zero locus of the ideal. -/
+noncomputable def PrimeSpectrum.quotientOrderIso (I : Ideal R) :
+    PrimeSpectrum (R ⧸ I) ≃o PrimeSpectrum.zeroLocus (R := R) I where
+  toEquiv := (Equiv.ofInjective _ (PrimeSpectrum.comap_injective_of_surjective _
```
Comment (alreadydone) [inline Mathlib/RingTheory/KrullDimension/NonZeroDivisors.lean]: Note: use [this](https://github.com/leanprover-community/mathlib4/pull/25210/files#diff-14e0882f79f4ea69a6b16a99b513228a4e2a5bdd57b7d9dc11ac8e55c935b1caR247) (looks golfable) once #25210 is merged.

Comment (alreadydone) [reply Mathlib/RingTheory/KrullDimension/NonZeroDivisors.lean]: Another TODO: replace [these two](https://github.com/leanprover-community/mathlib4/pull/25210/files#diff-5a42781dcb3443ee485415566fc91a414e007300faef6f2ef8de56cea71c7f6cR295-R314) with my version

Comment (alreadydone) [reply Mathlib/RingTheory/KrullDimension/NonZeroDivisors.lean]: Maybe also fix indentation [here](https://github.com/leanprover-community/mathlib4/pull/25210/files#diff-5cdb1b6453954cff9be1fd36ae685ad335238430e72c3d56d0e786e23922960aR30) and below :)

File: Mathlib/Order/KrullDimension.lean (hunk 13 above)
Comment (xyzw12345) [reply Mathlib/Order/KrullDimension.lean:1043]: Actually all the difficulties in natural number comparisons are handled by the last `omega`, so things are already pretty simple by now. The `coheight` version has been added.

File: Mathlib/RingTheory/Localization/AtPrime.lean (hunk 14 above)
Comment (xyzw12345) [reply Mathlib/RingTheory/Localization/AtPrime.lean]: That worked.

File: Mathlib/RingTheory/KrullDimension/NonZeroDivisors.lean (hunk 15 above)
Comment (xyzw12345) [reply Mathlib/RingTheory/KrullDimension/NonZeroDivisors.lean]: I think it's done now(?) But please double check if the changes I made are what you think should be. Thanks!

**Review by alreadydone — APPROVED** [review]
Thanks! There are just some `shake` errors
maintainer delegate

File: Mathlib/RingTheory/Spectrum/Prime/Defs.lean [hunk 16]
```diff
@@ -32,3 +32,38 @@ structure PrimeSpectrum (R : Type*) [CommSemiring R] where
...
+instance : PartialOrder (PrimeSpectrum R) :=
+  PartialOrder.lift asIdeal (@PrimeSpectrum.ext _ _)
+
+@[simp]
+theorem asIdeal_le_asIdeal (x y : PrimeSpectrum R) : x.asIdeal ≤ y.asIdeal ↔ x ≤ y :=
+  Iff.rfl
+
+@[simp]
+theorem asIdeal_lt_asIdeal (x y : PrimeSpectrum R) : x.asIdeal < y.asIdeal ↔ x < y :=
+  Iff.rfl
```
Comment (erdOne) [inline Mathlib/RingTheory/Spectrum/Prime/Defs.lean:57]: These are not defs so they shouldn't be here.

File: Mathlib/Order/KrullDimension.lean [hunk 17]
```diff
@@ -1036,4 +1033,60 @@ lemma coheight_coe_enat (n : ℕ) : coheight (n : ℕ∞) = ⊤ := by
...
+    apply lt_of_le_not_le (f.monotone (le_trans (p.monotone (Fin.le_last _)) hp)) fun h'' ↦ ?_
+    let q' : LTSeries α := p.drop i
+    let q : LTSeries (f ⁻¹' {f x}) := ⟨q'.length, fun j ↦ ⟨q' j, le_antisymm
+      (f.monotone (le_trans (b := q'.last) (q'.monotone (Fin.le_last _)) ((p.last_drop _) ▸ hp)))
+      (le_trans (b := f q'.head) ((p.head_drop _) ▸ h'')
+        (f.monotone (q'.monotone (Fin.zero_le _))))⟩, fun i ↦ q'.step i⟩
+    have := le_trans (LTSeries.length_le_krullDim q) (h (f x))
+    simp only [RelSeries.drop_length, Nat.cast_le, tsub_le_iff_right, q', i, q] at this
+    have : p.length > m := ENat.coe_lt_coe.mp (lt_of_le_of_lt (le_add_left (le_refl _)) h_len)
+    omega
```
Comment (alreadydone) [inline Mathlib/Order/KrullDimension.lean]: Here are some routine golfs
```suggestion
    refine height_le_iff.mpr fun p hp ↦ le_of_not_lt fun h_len ↦ ?_
    let i : Fin (p.length + 1) := ⟨p.length - (m + 1), Nat.sub_lt_succ p.length _⟩
    suffices h'' : f (p i) < f x by
      obtain ⟨n', hn'⟩ : ∃ (n' : ℕ), n' = height (f (p i)) := ENat.ne_top_iff_exists.mp
        ((height_mono h''.le).trans_lt (h' ▸ ENat.coe_lt_top _)).ne
      have h_lt : n' < n := ENat.coe_lt_coe.mp
        (h' ▸ hn' ▸ height_strictMono h'' (hn' ▸ ENat.coe_lt_top _))
      have := (length_le_height_last (p := p.take i)).trans <| ih n' h_lt (p i) hn'.symm
      rw [RelSeries.take_length, ENat.coe_sub, Nat.cast_add, Nat.cast_one, tsub_le_iff_right,
        add_assoc, add_comm _ (_ + 1), ← add_assoc, ← mul_add_one] at this
      refine not_lt_of_le ?_ (h_len.trans_le this)
      gcongr
      rwa [← ENat.coe_one, ← ENat.coe_add, ENat.coe_le_coe]
    refine (f.monotone ((p.monotone (Fin.le_last _)).trans hp)).lt_of_not_le fun h'' ↦ ?_
    let q' : LTSeries α := p.drop i
    let q : LTSeries (f ⁻¹' {f x}) := ⟨q'.length, fun j ↦ ⟨q' j, le_antisymm
      (f.monotone (le_trans (b := q'.last) (q'.monotone (Fin.le_last _)) (p.last_drop _ ▸ hp)))
      (le_trans (b := f q'.head) (p.head_drop _ ▸ h'')
        (f.monotone (q'.monotone (Fin.zero_le _))))⟩, fun i ↦ q'.step i⟩
    have := (LTSeries.length_le_krullDim q).trans (h (f x))
    simp only [RelSeries.drop_length, Nat.cast_le, tsub_le_iff_right, q', i, q] at this
    have : p.length > m := ENat.coe_lt_coe.mp ((le_add_left le_rfl).trans_lt h_len)
    omega
```

File: Mathlib/Order/KrullDimension.lean [hunk 18]
```diff
@@ -1036,4 +1033,60 @@ lemma coheight_coe_enat (n : ℕ) : coheight (n : ℕ∞) = ⊤ := by
 
 end calculations
 
+section orderHom
+
+lemma height_le_of_krullDim_preimage_le {α β : Type*} [Preorder α] [PartialOrder β]
+    (f : α →o β) {m : ℕ} (h : ∀ (x : β), Order.krullDim (f ⁻¹' {x}) ≤ m) (x : α):
```
Comment (alreadydone) [inline Mathlib/Order/KrullDimension.lean]: Can you please extract all these variables, thanks.

File: Mathlib/RingTheory/Spectrum/Prime/Defs.lean (hunk 16 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Spectrum/Prime/Defs.lean:57]: Moving them back won't break anything so I couldn't care less :)
but when moving things I'll usually move anything related that doesn't add imports to the destination file.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
